US06387926B1
N-[6-Bromo-1,2,3,4-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-quinolinyl]benzenesulfonamide, dihydrochloride
The title compound was prepared in a manner similar to step F of Example 1. Thus, 6-Bromo-1,2,3,4-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-quinolinamine (42 mg, 0.1 mmol) in dimethylformamide (0.2 mL) was treated with triethylamine (0.3 mL, 2.1 mmol), dimethylaminopyridine (10 mg) and benzenesulfonyl chloride (0.014 mL, 0.11 mmol) to afford a solid (17 mg, 32%). MS; (M+H)+=447, 1 Br pattern.

reactant | 6-Bromo-1,2,3,4-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-quinolinamine | 0.1 mmol, 42 mg | BrC=1C=C2CC(CN(C2=CC1)CC=1N=CNC1)N | C13H15BrN4
reactant | triethylamine | 2.1 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | benzenesulfonyl chloride | 0.11 mmol, 0.014 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
product | N-[6-Bromo-1,2,3,4-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-quinolinyl]benzenesulfonamide, dihydrochloride | Cl.Cl.BrC=1C=C2CC(CN(C2=CC1)CC=1N=CNC1)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C19H19BrN4O2S.2ClH/c20-15-6-7-19-14(8-15)9-16(11-24(19)12-17-10-21-13-22-17)23-27(25,26)18-4-2-1-3-5-18;;/h1-8,10,13,16,23H,9,11-12H2,(H,21,22);2*1H
